US09376559B2
Preparation of dimethyl(2-methyl-4-phenyl-1H-indenyl)(2,3,4,5-tetramethylcyclopenta-dienyl)silane
To a light yellow solution of chlorodimethyl(2-methyl-4-phenyl-1H-indenyl)silane (9.40 g, 31.4 mmol, 1.00 eq.) in tetrahydrofuran (40 mL) at −30° C. was added sodium (tetramethylcyclopentadienide) (4.76 g, 33.0 mmol, 1.05 equiv.) in portions to give a cloudy orange solution. The reaction was allowed to warm to room temperature and stirred for 23 hours. The mixture was evaporated under vacuum leaving an orange residue. The residue was extracted with pentane (50 mL) and the extract was filtered to give a bright yellow solution and yellow solid. The solution was evaporated under vacuum to yield thick, orange oil. Yield 10.16 g (84%). 1H NMR (C6D6): δ 7.61 (d, 2H), 7.41 (m, IH), 7.31 (m, 4H), 7.19 (m, IH), 6.85 (s, IH), 3.60, (s, IH), 3.16 (br s, IH), 2.00 (s, 3H), 1.93 (s, 3H), 1.88 (s, 3H), 1.82 (s, 6H), −0.23 (s, 3H), −0.24 (s, 3H).

reactant | chlorodimethyl(2-methyl-4-phenyl-1H-indenyl)silane | 31.4 mmol, 9.40 g, 1.00 eq. | Cl[Si](C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)C)(C)C | C18H19ClSi
reactant | sodium (tetramethylcyclopentadienide) | 33.0 mmol, 4.76 g, 1.05 equiv. | CC1=C(C(=C([CH-]1)C)C)C.[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | dimethyl(2-methyl-4-phenyl-1H-indenyl)(2,3,4,5-tetramethylcyclopenta-dienyl)silane | C[Si](C1=C(C(=C(C1C)C)C)C)(C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)C)C | C27H32Si
